US05342844
7-[3-[4-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
Starting from 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (0.94 g, 3.3 mmol) and 1,1-dimethylethyl[[4-(3-pyrrolidinyl)phenyl]methyl]carbamate, a procedure analogous to that given in Example 6 provided the title compound (1.30 g) as an off-white solid, mp 268°-272° C.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 3.3 mmol, 0.94 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | 1,1-dimethylethyl[[4-(3-pyrrolidinyl)phenyl]methyl]carbamate | CC(C)(C)N(C([O-])=O)CC1=CC=C(C=C1)C1CNCC1
product | 7-[3-[4-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.30 g | NCC1=CC=C(C=C1)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C23H23FN4O3
